US06069176
3-(3-Methoxyphenyl)cyclohexanone (13.1 g), benzylamine (6.88 g) and p-toluenesulfonic acid (1.22 g) were refluxed for 1.5 hours in benzene (200 ml) using a Dean-Stark apparatus while removing the water generated. After concentrating the reaction solution under reduced pressure, methanol (200 ml) was added and upon adding sodium borohydride (2.43 g) gradually under ice cooling, the mixture was stirred at room temperature for an hour. After concentrating the reaction solution under reduced pressure, water was added and extraction was performed with chloroform. The organic layer was washed with saturated aqueous solution of sodium bicarbonate and saturated saline, and then dried with anhydrous magnesium sulfate. The crude product obtained from distilling off the solvent under reduced pressure was separated and purified by silica gel column chromatography (n-hexane:ethyl acetate=5:1 to 1:1) to give 15.8 g of N-benzyl-N-[3-(3-methoxyphenyl) cyclohexyl]amine as a diastereomeric mixture (83.4% yield). Repeated silica gel column chromatography (n-hexane:ethyl acetate=5:1) allowed separation of the two diastereomers, with the trans form obtained from the earlier eluted fraction and the cis form obtained from the later eluted fraction.

reactant | 3-(3-Methoxyphenyl)cyclohexanone | 13.1 g | COC=1C=C(C=CC1)C1CC(CCC1)=O | C13H16O2
reactant | benzylamine | 6.88 g | C(C1=CC=CC=C1)N | C7H9N
reactant | p-toluenesulfonic acid | 1.22 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | N-benzyl-N-[3-(3-methoxyphenyl) cyclohexyl]amine | 15.8 g | C(C1=CC=CC=C1)NC1CC(CCC1)C1=CC(=CC=C1)OC | C20H25NO
